US07071177B2
To a solution of 2.0 g (9.85 mmol) 2-bromo-5-nitropyridine dissolved in 8 mL DMF was added 690 mg (9.85 mmol) of sodium thiomethoxide. The mixture was stirred at room temperature for 1 h, and partitioned between ethyl acetate and water, dried over MgSO4 and concentrated to obtain 1.13 g of 2-methylthio-5-nitro-pyridine, pure by 1H NMR.

reactant | 2-bromo-5-nitropyridine | 9.85 mmol, 2.0 g | BrC1=NC=C(C=C1)[N+](=O)[O-] | C5H3BrN2O2
reactant | sodium thiomethoxide | 9.85 mmol, 690 mg | C[S-].[Na+]
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | 2-methylthio-5-nitro-pyridine | 1.13 g | CSC1=NC=C(C=C1)[N+](=O)[O-] | C6H6N2O2S
